US05891909
c) 3-[5-Methyl-3-(2-trifluoromethylphenylsulfonyloxy)phenoxy]propionaldehyde
Sulfur trioxide pyridine complex (1.12 mg, 7.0 mmol) was added to a solution of 3-[5-methyl-3-(2-trifluoromethylphenylsulfonyloxy)phenoxy]propanol (700 mg, 1.8 mmol), as prepared in the preceding step, N,N-diisopropylethylamine (0.7 mL, 5.5 mmol), and anhydrous dimethyl sulfoxide (0.4 mL, 5.6 mmol) in anhydrous dichloromethane (20 mL). The reaction mixture was stirred at ambient temperature for 1 hour and then quenched with 10% aqueous citric acid (50 mL). The mixture was extracted into dichloromethane (3×50 mL), then the dichloromethane solution was washed with 10% aqueous citric acid (40 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was purified by flash column chromatography (dichloromethane) to give the title compound as a colorless oil (595 mg, 85%). 1H-NMR (300 MHz, CDCl3) δ 9.84 (s, 1 H), 8.13 (d, J=7.5 Hz, 1 H), 7.99 (d, J=7.5 Hz, 1 H), 7.80 (t, J=7.6 Hz, 1 H), 7.70 (t, J=7.3 Hz, 1 H), 6.62 (s, 1 H), 6.51 (s, 1 H), 6.45 (s, 1 H), 4.21 (t, J=6.0 Hz, 2 H), 2.87 (t, J=6.0 Hz, 2 H), 2.25 (s, 3 H).

reactant | 3-[5-methyl-3-(2-trifluoromethylphenylsulfonyloxy)phenoxy]propanol | 1.8 mmol, 700 mg | CC=1C=C(C=C(OCCCO)C1)OS(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C17H17F3O5S
reactant | N,N-diisopropylethylamine | 5.5 mmol, 0.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 5.6 mmol, 0.4 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-[5-Methyl-3-(2-trifluoromethylphenylsulfonyloxy)phenoxy]propionaldehyde | 595 mg, 85% | CC=1C=C(C=C(OCCC=O)C1)OS(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C17H15F3O5S
